US07642264B2
2-Chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3,4-difluoro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (14.7 g, 0.053 mol) and phosphoroxychloride (148 mL) according to the general procedure I. Obtained as a light brown solid (15.6 g, 99%). MS (EI) 294.0 [(M)+]; mp 53° C.

reactant | 4-(3,4-difluoro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 0.053 mol, 14.7 g | FC=1C=C(C=CC1F)C1=NC(NC(=C1)C(F)(F)F)=O | C11H5F5N2O
reactant | phosphoroxychloride | 148 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)F)C(F)(F)F | C11H4ClF5N2
